US07119088B2
2-(2-Methylamino-ethyl)-phenylamine
A mixture of N-methyl-N-(2-(2-nitrophenyl)ethyl)amine (WO 9803473, pg 100) (3 g, 16.65 mmol) and Raney® nickel (500 mg) in ethanol (50 ml) was hydrogenated at 60 psi and room temperature for 2 hours. The mixture was filtered through Celite® and the filtrate evaporated under reduced pressure to give the title compound as an oil.

reactant | N-methyl-N-(2-(2-nitrophenyl)ethyl)amine | 16.65 mmol, 3 g | CNCCC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney® nickel | 500 mg | [Ni] | Ni
product | 2-(2-Methylamino-ethyl)-phenylamine | CNCCC1=C(C=CC=C1)N | C9H14N2
